US08097563B2
1200 g of linear dodecylbenzenesulfonate was heated (50 to 60° C.) while being stirred. Octylamine was added dropwise while keeping the temperature constant (50 to 60° C.) until the pH of the system increased to approximately 6 to obtain a linear dodecylbenzenesulfonate octylamine salt.

reactant | dodecylbenzenesulfonate | 1200 g | C(CCCCCCCCCCC)OS(=O)(=O)C1=CC=CC=C1 | C18H30O3S
reactant | Octylamine | C(CCCCCCC)N | C8H19N
product | dodecylbenzenesulfonate octylamine | C(CCCCCCC)N.C(CCCCCCCCCCC)OS(=O)(=O)C1=CC=CC=C1 | InChI=1S/C18H30O3S.C8H19N/c1-2-3-4-5-6-7-8-9-10-14-17-21-22(19,20)18-15-12-11-13-16-18;1-2-3-4-5-6-7-8-9/h11-13,15-16H,2-10,14,17H2,1H3;2-9H2,1H3
